US08629271B2
b) 2-Isopropyl-5-methylthiazole-4-carboxylic acid
A solution of lithium hydroxide monohydrate (0.2 g) in water (3 mL) was added to a solution of methyl 2-isopropyl-5-methylthiazole-4-carboxylate (example 69, step a) (0.5 g) in methanol (7 mL) and the reaction mixture was stirred at 20° C. for 3 hours. The methanol was removed under reduced pressure and the remaining aqueous solution was washed with ethyl acetate. The aqueous layer was acidified by dropwise addition of concentrated aqueous HCl and this mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulphate, filtered and the solvent was removed under reduced pressure. The resultant gum crystallised on standing. Trituration with a mixture of isohexane (4 mL) and ether (1 mL) afforded the subtitled compound. Yield 0.160 g.

reactant | lithium hydroxide monohydrate | 0.2 g | O.[OH-].[Li+]
reactant | methyl 2-isopropyl-5-methylthiazole-4-carboxylate | C(C)(C)C=1SC(=C(N1)C(=O)OC)C | C9H13NO2S
solvent | water | 3 mL | O | H2O
solvent | methanol | 7 mL | CO | CH4O
product | 2-Isopropyl-5-methylthiazole-4-carboxylic acid | C(C)(C)C=1SC(=C(N1)C(=O)O)C | C8H11NO2S
